Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[O:1]([C:2]([C:3](=[O:4])[H:8])([H:7])[H:9])[H:10],51.4465964778227
[C:1]([C:2](=[C:3])[H:9])([C@@:6]1([H:12])[C:4]([H:10])([H:11])[O:5]1)([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],4.8738100113505
[O:1]([C@@:2]1([H:9])[C@@:3]([C:6]#[N:7])([H:11])[C:4]1=[C:5]([H:10])[H:12])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],66.85419488721145
[C:1]([C@@:6]([C:2](=[O:3])[C:4](=[O:5])[H:12])([O:7][H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],36.65525136622439
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C+:2](=[C:3]=[C-:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[H:9].[O:1]([H:8])[H:10],61.8898837516942
[O:1]([C:2]([C:4](=[C:3])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],1.4366244768086176
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([O:5][C-:4]=[O+:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],113.33773690865699
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[O:5])([C:6](=[O:7])[H:11])[H:10],67.2275265907044
[C-:6]#[O+:7].[C:1]([C:2]([O:3][H:12])([H:11])[H:15])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.787664790571796
[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],16.629579738171493
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:4]=[C:5]([O:6][H:10])[H:14],39.602073217495295
[O:1]([C:2]([N:6]([C:5](=[O+:4][C-:3]([H:10])[H:11])[H:12])[H:13])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],20.441565131266394
[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[N:2]=[C:3]([N:5]([H:10])[H:11])[O:4]1.[H:6][H:9],99.09185444212869
[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6]>>[O:1]=[C:2]([C:3]1([H:7])[N:4]=[N:5]1)[H:6],43.8788145224641
[O:1]=[C:2]([C:3]([C@:4]1([H:11])[C:5]([H:7])=[N:6]1)([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],37.5349607216327
[C:1]([O:2][C:3]([C:4]([H:8])([H:11])[H:12])([H:9])[H:10])([O:5][H:13])([H:6])[H:7]>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],104.34499136834359
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:17])[H:11])([H:8])([H:9])[H:10].[N:5]([C:6]([H:12])([H:13])[H:14])=[C:7]([H:15])[H:16],88.39787940418779
[H:8][H:11].[O:1]=[C:2]([C@@:3]1([H:10])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:9]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],67.87211855453131
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C:3]([C@@:2]1([H:9])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])([H:10])[H:11])[H:8],85.1001989196709
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2](=[C:3]=[C:4]([C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8],71.42718346156691
[C:1](=[C:2]=[O:3])([H:8])[H:9].[N-:4]([C+:5]([N:6]([H:7])[H:12])[H:11])[H:10]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],26.396651091970497
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O+:6]=[C-:5][H:16])([H:7])([H:8])[H:9],107.57183811464199
[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[O:5])[H:12])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[H:12])([H:6])([H:7])[H:8],74.449948642403
[C:1]([C@:2]1([H:11])[C:5]([C:3]([C:4]([H:13])([H:14])[H:15])([H:10])[H:12])=[N:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],58.58119934747599
[O:1]([C@@:2]([C:3](=[C:4]=[N:5][H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],58.87918478087281
